US06172076B2
Preparation of 4-{5-[4-Oxo-1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]dec-8-ylmethyl]imidazol-1-ylmethyl}benzonitrile
A solution of 1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]decan-4-one (0.25 g, 0.94 mmol), 1-(4-cyanobenzyl)-5-chloromethylimidazole hydrochloride salt (0.23 g, 0.94 mmol), and diisopropylethylamine (0.5 mL, 2.8 mmol) in absolute ethanol (5 mL) was heated under reflux overnight. The resulting mixture was concentrated under vacuum, and the residue was subjected to column chromatography on silica gel eluting with 5% methanol in ethyl acetate. The appropriate fractions were collected and concentrated. The residue was triturated with diethyl ether, and the white solid precipitated was collected by filtration to provide the title compound.

reactant | 1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]decan-4-one | 0.94 mmol, 0.25 g | CC=1C=C(C=CC1)N1CNC(C12CCNCC2)=O | C14H19N3O
reactant | 1-(4-cyanobenzyl)-5-chloromethylimidazole hydrochloride salt | 0.94 mmol, 0.23 g | Cl.C(#N)C1=CC=C(CN2C=NC=C2CCl)C=C1
reactant | diisopropylethylamine | 2.8 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-{5-[4-Oxo-1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]dec-8-ylmethyl]imidazol-1-ylmethyl}benzonitrile | O=C1NCN(C12CCN(CC2)CC2=CN=CN2CC2=CC=C(C#N)C=C2)C2=CC(=CC=C2)C | C26H28N6O
